US04612317
n-Butyl (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
In the same manner as described in Example 34 by using (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline (1.08 g), triethylamine (1.01 g), CS2 (0.76 g), n-butyl iodide (1.84 g) and dimethylformamide (8 ml), there is prepared the title compound (1.3 g, 75%) as colorless needles, m.p. 110°-113° C. (recrystallized from aqueous ethanol, [α]D20 +181.8° (c=1.0, methanol); NMR (CDCl3, δ): 0.97 (m, 3H, --(CH2)3CH3); Mass m/e: 348 (M+), 258 (M+ --C4H9SH).

reactant | (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline | 1.08 g | OC[C@H]1N[C@H](C=2NC3=CC=CC=C3C2C1)C | C13H16N2O
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | CS2 | 0.76 g | C(=S)=S | CS2
reactant | n-butyl iodide | 1.84 g | C(CCC)I | C4H9I
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | n-Butyl (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 1.3 g, 75% | OC[C@H]1N([C@H](C=2NC3=CC=CC=C3C2C1)C)C(=S)SCCCC | C18H24N2OS2
